US06919355B2
(6-Hydroxy-1H-benzoimidazol-2-yl)-[4-(4-methyl-benzyl) -piperidine-1-yl]-methanone 45 70001378
The title compound is prepared from 6-hydroxy-1H-benzoimidazole-2-carboxylic acid [Example elözö d] and 4-(-methylbenzyl)piperidine [J. Org. Chem., 64, 3763 (1999)] according to the method described in Example 25. Mp.: 93° C. (diisopropyl ether).

reactant | 6-hydroxy-1H-benzoimidazole-2-carboxylic acid | OC=1C=CC2=C(NC(=N2)C(=O)O)C1 | C8H6N2O3
reactant | 4-(-methylbenzyl)piperidine | CC(C1=CC=CC=C1)C1CCNCC1 | C13H19N
reactant | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
product | (6-Hydroxy-1H-benzoimidazol-2-yl)-[4-(4-methyl-benzyl) -piperidine-1-yl]-methanone | OC=1C=CC2=C(NC(=N2)C(=O)N2CCC(CC2)CC2=CC=C(C=C2)C)C1 | C21H23N3O2
